### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/Arithmetic): `IsNormal.iSup`

### PR DESCRIPTION
**Pull request by YnirPaz**
Prove `IsNormal.iSup`, the `iSup` version of IsNormal.sup.

---

- [x] depends on: #16996

This can probably be proven more easily using `IsNormal.sup`, but it is in the process of being deprecated.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -1263,6 +1269,14 @@ theorem sup_eq_sup {ι ι' : Type u} (r : ι → ι → Prop) (r' : ι' → ι'
     sup.{_, v} (familyOfBFamily' r ho f) = sup.{_, v} (familyOfBFamily' r' ho' f) :=
   sup_eq_of_range_eq.{u, u, v} (by simp)
 
+theorem IsNormal.iSup {f : Ordinal.{u} → Ordinal.{max u v}} (H : IsNormal f) {ι : Type w}
+    (g : ι → Ordinal.{u}) (hg : BddAbove (range g)) [Nonempty ι] : f (iSup g) = iSup (f ∘ g) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1273]: This already exists as `IsNormal.map_iSup`. I think it would be good to have two versions:
- One taking in a `BddAbove` argument as this one.
- One that infers it whenever the domain is a small type.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -1337,6 +1319,52 @@ theorem bddAbove_range_comp {ι : Type u} {f : ι → Ordinal.{v}} (hf : BddAbov
...
   exact small_lift _
 
+  -- TODO: generalize universes, make sSup version.
+theorem IsNormal.map_iSup {f : Ordinal.{u} → Ordinal.{max u v}} (H : IsNormal f) {ι : Type w}
+    (g : ι → Ordinal.{u}) [Nonempty ι] [Small.{u} ι] : f (⨆ i, g i) = ⨆ i, f (g i) :=
+  eq_of_forall_ge_iff fun a ↦ by
+    change f (⨆ i, g i) ≤ a ↔ ⨆ i, (f ∘ g) i ≤ a
+    rw [ciSup_le_iff (Ordinal.bddAbove_range_comp (bddAbove_of_small _) f)]
+    simp_all only [Function.comp]
+    rw [H.le_set' Set.univ Set.univ_nonempty g] <;>
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1329]: Something else that would be nice to do (in this PR or otherwise) is deprecate `IsNormal.le_set`. I think all it's doing is state `f (Sup s) = Sup (f '' s)` in a more roundabout way.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: We already have [`small_of_injective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Small/Basic.html#small_of_injective).

Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: `small_of_injective` is not enough, `Small.{v + 1} Ordinal.{u}` doesn't imply `Small.{v} α` for `α` small in `u` ([zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Smallness.20inequality)). So I added a few `Small` stuff.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -1331,6 +1314,63 @@ theorem bddAbove_iff_small {s : Set Ordinal.{u}} : BddAbove s ↔ Small.{u} s :=
...
+  haveI : Small.{u} (range g) := bddAbove_iff_small.mp hg
+  haveI : Small.{v} (range g) := small_of_exists_injection H.strictMono.injective
+  have hfg : BddAbove (range (f ∘ g)) := bddAbove_iff_small.mpr <| by
+    rw [range_comp]
+    exact small_image f (range g)
+  change f (⨆ i, g i) ≤ a ↔ ⨆ i, (f ∘ g) i ≤ a
+  rw [ciSup_le_iff hfg]
+  simp_all only [Function.comp]
+  rw [H.le_set' Set.univ Set.univ_nonempty g] <;>
+    simp [ciSup_le_iff hg]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1358]:
```suggestion
  change _ ↔ ⨆ i, (f ∘ g) i ≤ a
  rw [ciSup_le_iff hfg, H.le_set' _ Set.univ_nonempty g] <;> simp [ciSup_le_iff hg]
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 4]
```diff
@@ -1331,6 +1314,63 @@ theorem bddAbove_iff_small {s : Set Ordinal.{u}} : BddAbove s ↔ Small.{u} s :=
...
+    simp
+  · intro o
+    rw [Ordinal.iSup_le_iff_of_small]
+    simp
+
+theorem IsNormal.map_iSup_bddAbove {f : Ordinal.{u} → Ordinal.{v}} (H : IsNormal f)
+    {ι : Type w} (g : ι → Ordinal.{u}) (hg : BddAbove (range g))
+    [Nonempty ι] : f (⨆ i, g i) = ⨆ i, f (g i) := eq_of_forall_ge_iff fun a ↦ by
+  haveI : Small.{u} (range g) := bddAbove_iff_small.mp hg
+  haveI : Small.{v} (range g) := small_of_exists_injection H.strictMono.injective
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1350]: In Lean 4, `I` stands for "inline" rather than "instance". So a normal `have` block will work just fine here.
```suggestion
  have : Small.{u} (range g) := bddAbove_iff_small.mp hg
  have : Small.{v} (range g) := small_of_exists_injection H.strictMono.injective
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 5]
```diff
@@ -1331,6 +1314,63 @@ theorem bddAbove_iff_small {s : Set Ordinal.{u}} : BddAbove s ↔ Small.{u} s :=
...
+    (g : ι → Ordinal.{max u v}) [Nonempty ι] : f (sup.{_, v} g) = sup.{_, w} (f ∘ g) := by
+  rw [Ordinal.sup, Ordinal.sup]
+  apply eq_of_forall_ge_iff
+  intro a
+  rw [H.le_set' Set.univ Set.univ_nonempty g]
+  · rw [Ordinal.iSup_le_iff]
+    simp
+  · intro o
+    rw [Ordinal.iSup_le_iff]
+    simp
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1372]:
```suggestion
    (g : ι → Ordinal.{max u v}) [Nonempty ι] : f (sup.{_, v} g) = sup.{_, w} (f ∘ g) :=
  H.map_iSup g
```

**Comment by vihdzp** [comment]
Took this over with the author's permission.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 6]
```diff
@@ -1184,6 +1193,12 @@ theorem bddAbove_iff_small {s : Set Ordinal.{u}} : BddAbove s ↔ Small.{u} s :=
   ⟨fun ⟨a, h⟩ => small_subset <| show s ⊆ Iic a from fun _ hx => h hx, fun _ =>
     bddAbove_of_small _⟩
 
+theorem bddAbove_range_comp {ι : Type u} {f : ι → Ordinal.{v}} (hf : BddAbove (range f))
+    (g : Ordinal.{v} → Ordinal.{max v w}) : BddAbove (range (g ∘ f)) := by
+  rw [range_comp, bddAbove_iff_small]
+  rw [bddAbove_iff_small] at hf
+  exact small_lift _
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1200]: I'm not sure how this proof works! Is there something like "`BddAbove s → BddAbove (g '' s)` to extract from it?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 7]
```diff
@@ -263,6 +263,15 @@ theorem zero_or_succ_or_limit (o : Ordinal) : o = 0 ∨ (∃ a, o = succ a) ∨
     if h : ∃ a, o = succ a then Or.inr (Or.inl h)
     else Or.inr <| Or.inr ⟨o0, fun _a => (succ_lt_of_not_succ h).2⟩
 
+theorem IsLimit.sSup_Iio {o : Ordinal} (h : IsLimit o) : sSup (Iio o) = o := by
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:266]: I'd rather not introduce anything about `IsSuccPrelimit` / `IsSuccLimit` in this file until `IsLimit` is deprecated, otherwise it'll just make it annoying having to switch between both APIs.

The `IsLimit` version isn't an iff as `sSup (Iio 0) = 0`.

File: Mathlib/SetTheory/Cardinal/UnivLE.lean [hunk 8]
```diff
@@ -29,3 +29,6 @@ theorem univLE_iff_cardinal_le : UnivLE.{u, v} ↔ univ.{u, v+1} ≤ univ.{v, u+
 /-- Together with transitivity, this shows UnivLE "IsTotalPreorder". -/
 theorem univLE_total : UnivLE.{u, v} ∨ UnivLE.{v, u} := by
   simp_rw [univLE_iff_cardinal_le]; apply le_total
+
+theorem Ordinal.univLE_of_injective {f : Ordinal.{u} → Ordinal.{v}} (h : f.Injective) :
+    UnivLE.{u, v} := univLE_iff_cardinal_le.mpr <| lift_mk_le'.mpr ⟨f, h⟩
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/UnivLE.lean:34]: Sure, it's basically immediate from `univLE_iff_cardinal_le`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Sure, I've added `bddAbove_image`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:266]: Eh, okay. Can you leave a TODO then? And I meant that the prelimit version is an iff

**Review by YaelDillies — APPROVED** [review]
maintainer merge

Thanks!

**Comment by fpvandoorn** [comment]
bors merge
